US04001226
As in the case of the aforedescribed reaction of amines with the 3-isocyanato-2-cephems, the reaction of such isocyanates with carbanionic reagents is accompanied by the rearrangement of the double bond in the cephem ring. Thus, benzhydryl 7-benzyloxycarbonylamino-3-isocyanato-2-cephem-4-carboxylate reacts with 1.1 equivalents of sodium diethylmalonate in tetrahydrofuran at -20° C. over a 5 minute period, to provide after hydrolysis with about 3 equivalents of 1N.HCl, benzhydryl 7 -benzyloxycarbonylamino-3-di(ethoxycarbonyl)acetamido-3-cephem-4-carboxylate. Likewise tert-butyl 7-(3-chlorophenylacetamido)-3-isocyanato-2-cephem-4carboxylate reacts with about 1.1 equivalents of isopropylmagnesium bromide in tetrahydrofuran at about --70° C. over a 30 minute period to give, upon acid hydrolysis, tert-butyl 7-(2-chlorophenylacetamido)-3-(2-methyl-propionamido)-3-cephem-4-carboxylate. The reaction of methyllithium with 4-methoxybenzyl 7-acetamido-3-isocyanato-3-cephem-4-carboxylate under similar conditions yields 4-methoxybenzyl 7-acetamido-3-acetamido-3-cephem-4-carboxylate.

reactant | benzhydryl 7-benzyloxycarbonylamino-3-isocyanato-2-cephem-4-carboxylate | C(C1=CC=CC=C1)OC(=O)NC1[C@@H]2N(C(C(=CS2)N=C=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H23N3O6S
reactant | sodium diethylmalonate | 1.1 equivalents | C(C)C(C(=O)[O-])(C(=O)[O-])CC.[Na+].[Na+]
reactant | HCl | Cl | ClH
reactant | benzhydryl 7 -benzyloxycarbonylamino-3-di(ethoxycarbonyl)acetamido-3-cephem-4-carboxylate | C(C1=CC=CC=C1)OC(=O)NC1[C@@H]2N(C(=C(CS2)NC(C(C(=O)OCC)C(=O)OCC)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C36H35N3O10S
reactant | tert-butyl 7-(3-chlorophenylacetamido)-3-isocyanato-2-cephem-4carboxylate | ClC=1C=C(C=CC1)CC(=O)NC1[C@@H]2N(C(C(=CS2)N=C=O)C(=O)OC(C)(C)C)C1=O | C20H20ClN3O5S
reactant | isopropylmagnesium bromide | about 1.1 equivalents | C(C)(C)[Mg]Br
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | tert-butyl 7-(2-chlorophenylacetamido)-3-(2-methyl-propionamido)-3-cephem-4-carboxylate | ClC1=C(C=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)NC(C(C)C)=O)C(=O)OC(C)(C)C)C1=O | C23H28ClN3O5S
